US04045445
By analogous procedures as in Examples 6 and 10, using the corresponding starting materials, 2-amino-5-fluorophenyl 1-methyl-4-piperidyl ketone is prepared and reacted with o-chloronitrobenzene to give 5-fluoro-2-(o-nitroanilino)-phenyl 1-methyl-4-piperidyl ketone. This intermediate is then reduced and cyclized in the presence of an acidic catalyst to give 2-fluoro-11-(1-methyl-4-piperidyl)-5H-dibenzo-[b,e][1,4]diazepine.

reactant | 2-amino-5-fluorophenyl 1-methyl-4-piperidyl ketone | CN1CCC(CC1)C(=O)C1=C(C=CC(=C1)F)N | C13H17FN2O
reactant | o-chloronitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
product | 5-fluoro-2-(o-nitroanilino)-phenyl 1-methyl-4-piperidyl ketone | CN1CCC(CC1)C(=O)C1=C(C=CC(=C1)F)NC1=C(C=CC=C1)[N+](=O)[O-] | C19H20FN3O3
